US05854277
A solution of dehydroabietylamine acetate (47 g, 0.16 mol) in water (175 mL) was gently warmed until the solution became homogeneous. An aqueous solution of NaOH (10% W/V, 61 mL) was carefully added and after cooling to room temperature. The aqueous solution was extracted with diethyl ether, dried over MgSO4, filtered and concentrated to give dehydroabietylamine (35 g, 58%) as a viscous oil which solidified on standing.

reactant | dehydroabietylamine acetate | 0.16 mol, 47 g | CC(C)C1=CC2=C(C=C1)[C@]3(CCC[C@@]([C@@H]3CC2)(C)CN)C.CC(=O)O
reactant | NaOH | 61 mL | [OH-].[Na+]
solvent | water | 175 mL | O | H2O
product | dehydroabietylamine | 35 g, 58% | CC(C)C1=CC2=C(C=C1)[C@]3(CCC[C@@]([C@@H]3CC2)(C)CN)C | C20H31N
